US08076329B2
A solution of 4-(4-methoxyphenyl)-2-methylpyridine 1-oxide (384 mg) in a 48% aqueous solution of hydrobromic acid (2.08 mL) is heated under reflux for 4 hours. The mixture is allowed to cool back to room temperature, water and ethyl acetate are added and the two phases separated by decantation. The aqueous phase is concentrated under reduced pressure. The residue is dissolved in chloroform (4 mL); triethylamine (1 equivalent) is added followed by metachloroperbenzoic acid (1 equivalent). The mixture is stirred for two hours at room temperature; a few drops of methanol are added to dissolve the reactants and stirred again for one hour at room temperature. Concentration under reduced pressure affords 55 mg of 4-(4-hydroxyphenyl)-2-methylpyridine 1-oxide as a yellow oil used without further purification.

reactant | 4-(4-methoxyphenyl)-2-methylpyridine 1-oxide | 384 mg | COC1=CC=C(C=C1)C1=CC(=[N+](C=C1)[O-])C | C13H13NO2
reactant | hydrobromic acid | 2.08 mL | Br | BrH
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
reactant | metachloroperbenzoic acid | 1 equivalent | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
catalyst | methanol | a few drops | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(4-hydroxyphenyl)-2-methylpyridine 1-oxide | 55 mg | OC1=CC=C(C=C1)C1=CC(=[N+](C=C1)[O-])C | C12H11NO2
